US08222416B2
To a suspension of 1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridine (4.2 g, 16 mmol) in dry tetrahydrofuran (100 mL) at −78° C. was added a solution of n-butyllithium in n-hexane (1.6 M, 15 mL, 24 mmol) dropwise. The mixture was stirred at −78° C. for 15 min and then treated with (1,4-dioxa-spiro[4.4]non-7-yl)-acetaldehyde (5 g, 29 mmol) dropwise. The resulting mixture was stirred at −78° C. for 1 h and quenched with brine. The mixture was extracted with ethyl acetate (2×100 mL), washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. Purification by flash column chromatography (QingDao silica gel, 200-300 mesh, 30% ethyl acetate/hexanes) afforded 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(1,4-dioxa-spiro[4.4]non-7-yl)-ethanol as a colorless oil (5.5 g, 74%): LC/MS m/e calcd for C22H24N2O5S [M+H]+ 429.51, observed 429.3.

reactant | 1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridine | 16 mmol, 4.2 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=CC2 | C13H10N2O2S
reactant | n-butyllithium | C(CCC)[Li]
reactant | n-hexane | 24 mmol, 1.6 M, 15 mL | CCCCCC | C6H14
reactant | (1,4-dioxa-spiro[4.4]non-7-yl)-acetaldehyde | 29 mmol, 5 g | O1CCOC12CC(CC2)CC=O | C9H14O3
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(1,4-dioxa-spiro[4.4]non-7-yl)-ethanol | 5.5 g, 74% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(CC2CC1(OCCO1)CC2)O | C22H24N2O5S
